US04282226
2-(Hydroxymethyl)pyrazolo[1,5-c]quinazoline-5(6H)-thione
1.37 g (0.005 mole) of 5,6-dihydro-5-thioxopyrazolo-[1,5-c]quinazoline-2-carboxylic acid ethyl ester prepared as described in Example 2 is suspended in 100 ml of dichloromethane and treated with 8 ml (0.011 mole) of 20% diisobutylaluminum hydride (Dibal). The resultant yellow solution is stirred at room temperature for 45 minutes, 2.0 ml (0.003 M) of Dibal solution is added and stirring continued for 17 hours.

reactant | 5,6-dihydro-5-thioxopyrazolo-[1,5-c]quinazoline-2-carboxylic acid ethyl ester | 0.005 mole, 1.37 g | C(C)OC(=O)C1=NN2C(NC=3C=CC=CC3C2=C1)=S | C13H11N3O2S
reactant | diisobutylaluminum hydride | 0.011 mole, 8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Dibal | 0.003 M, 2.0 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(Hydroxymethyl)pyrazolo[1,5-c]quinazoline-5(6H)-thione | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=S | C11H9N3OS
